US06777428B1
4-[3-(3-nitrobenzamidyl)benzoyl]-1-methylpiperidine
Beginning with 4-[3-aminobenzoyl]-1-methylpiperidine (50 mg, 0.229 mmol) and 3-nitrobenzoyl chloride (128 mg, 0.687 mmol), 17.4 mg (21%) of the title compound were recovered.

reactant | 4-[3-aminobenzoyl]-1-methylpiperidine | 0.229 mmol, 50 mg | NC=1C=C(C(=O)C2CCN(CC2)C)C=CC1 | C13H18N2O
reactant | 3-nitrobenzoyl chloride | 0.687 mmol, 128 mg | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
product | 4-[3-(3-nitrobenzamidyl)benzoyl]-1-methylpiperidine | 17.4 mg, 21% | [N+](=O)([O-])C=1C=C(C(=O)NC=2C=C(C(=O)C3CCN(CC3)C)C=CC2)C=CC1 | C20H21N3O4
